US05112824
To a solution of 5-(2-bromoethoxy)benzofurazan (0.84 g, 3.4 mmol) in ethanol (45 ml), contained within a Fisher-Porter pressure vessel cooled with ice/acetone was added methylamine (45 ml). The vessel was sealed, the bath removed and the solution was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure and the residue flushed with ethanol. Recrystallization from ethyl acetate-hexane gave 5-(2-methylaminoethoxy)benzofurazan hydrobromide (0.75 g, 81%); 1H NMR (DMSO) δ2.68 (s, 3H), 3.45 (t, 2H), 4.43 (t, 2H), 7.34 (m, 2H), 8.04 (d, 1H, J=9.6 Hz), 8.76 (bs, 2H).

reactant | 5-(2-bromoethoxy)benzofurazan | 3.4 mmol, 0.84 g | BrCCOC=1C=CC=2C(=NON2)C1 | C8H7BrN2O2
reactant | methylamine | 45 ml | CN | CH5N
solvent | ethanol | 45 ml | C(C)O | C2H6O
product | 5-(2-methylaminoethoxy)benzofurazan hydrobromide | 0.75 g, 81% | Br.CNCCOC=1C=CC=2C(=NON2)C1 | InChI=1S/C9H11N3O2.BrH/c1-10-4-5-13-7-2-3-8-9(6-7)12-14-11-8;/h2-3,6,10H,4-5H2,1H3;1H
